US07432266B2
(2E)-3-(dimethylamino)-1-(3-Ethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazol-6-yl)prop-2-en-1-one (256 mg, 0.685 mmol) and 3-benzyloxyphenylhydrazine hydrochloride (270 mg, 1.1 mmol) were dissolved in ethanol (4 mL) in a 10 mL sealed tube. The mixture was subjected to microwave radiation (300 watts, 160° C.) for 5 minutes. The solvent was removed and the residue was extracted with ethyl acetate, then washed with water and brine. Removal of volatiles provided a tan solid, which was purified by column chromatography on silica gel, eluting with a 10-50% hexane/ethyl acetate gradient over 10 minutes (flow rate 20 mL/min), to give 160 mg (59%) of 6-{1-[3-(benzyloxy)phenyl]-1H-pyrazol-5-yl}-3-ethyl-1H-indazole. 1H NMR (CDCl3) δ 1.4 (t, 3H), 3.0 (q, 2H), 5.0 (s, 2H), 6.6 (d, 1H), 6,8 (d, 1H), 6.9 (d, 1H), 7.1 (m, 2H), 7.2 (t, 1H), 7.3 (m, 5H), 7.6 (d, 1H), 7.8 (m, 1H), 9.7 (br s, 1H).

reactant | (2E)-3-(dimethylamino)-1-(3-Ethyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazol-6-yl)prop-2-en-1-one | 0.685 mmol, 256 mg | CN(/C=C/C(=O)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)CC)C | C20H31N3O2Si
reactant | 3-benzyloxyphenylhydrazine hydrochloride | 1.1 mmol, 270 mg | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)NN
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 6-{1-[3-(benzyloxy)phenyl]-1H-pyrazol-5-yl}-3-ethyl-1H-indazole | 160 mg, 59% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)N1N=CC=C1C1=CC=C2C(=NNC2=C1)CC | C25H22N4O
